US09085606B2
Step-5: Preparation of (S)-3-Amino-3-(3-bromo-5-tert-butyl-phenyl)-propionic acid ethyl ester
Absolute ethanol (500 mL, saturated with anhydrous HCl gas) was added to (S)-3-amino-3-(3-bromo-5-tert-butylphenyl)-propionic acid (37 g, 0.12 mol) and the reaction mixture was heated at reflux for 2 h to give a colorless solution. The solvent was removed in vacuo to give a cream-yellow foamy solid. The solid was washed with diethyl ether/hexane and the dried to give a yellow foamy solid (41 g).

reactant | (S)-3-amino-3-(3-bromo-5-tert-butylphenyl)-propionic acid | 0.12 mol, 37 g | N[C@@H](CC(=O)O)C1=CC(=CC(=C1)C(C)(C)C)Br | C13H18BrNO2
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | (S)-3-Amino-3-(3-bromo-5-tert-butyl-phenyl)-propionic acid ethyl ester | 41 g | C(C)OC(C[C@@H](C1=CC(=CC(=C1)C(C)(C)C)Br)N)=O | C15H22BrNO2
